US05629430
Methyl (1S)-1-chloromethyl-3-[5 (dimethylaminomethylcarbonyl)amino-1H-indol-2-ylcarbonyl]-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate was prepared from 12.1 mg (20 μmol) of methyl (1S)-3-[5-(t-butoxycarbonyl)amino-1H-indol-2-ylcarbonyl]-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate and 2.8 mg (20 μmol) of N, N-dimethylglycine hydrochloride in the same manner as in Example 6 in a yield of 7.8 mg (66%).

reactant | methyl (1S)-3-[5-(t-butoxycarbonyl)amino-1H-indol-2-ylcarbonyl]-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 20 μmol, 12.1 mg | C(C)(C)(C)OC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)N1C[C@H](C2=C3C(=C(NC3=C(C=C21)O)C(F)(F)F)C(=O)OC)CCl | C28H26ClF3N4O6
reactant | N, N-dimethylglycine hydrochloride | 20 μmol, 2.8 mg | Cl.CN(CC(=O)O)C
product | Methyl (1S)-1-chloromethyl-3-[5 (dimethylaminomethylcarbonyl)amino-1H-indol-2-ylcarbonyl]-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | ClC[C@@H]1CN(C=2C1=C1C(=C(NC1=C(C2)O)C(F)(F)F)C(=O)OC)C(=O)C=2NC1=CC=C(C=C1C2)NC(=O)CN(C)C | C27H25ClF3N5O5
